US08084484B2
2-(1H-benzoimidazol-5-yl)-N-(4-tert.-butyl-benzyl)-propionamide
The compound was obtained by reacting N-(4-tert.-butylbenzyl)-2-(3,4-diaminophenyl)propanamide with triethyl orthoformate in a similar manner to example compound 13.

reactant | N-(4-tert.-butylbenzyl)-2-(3,4-diaminophenyl)propanamide | C(C)(C)(C)C1=CC=C(CNC(C(C)C2=CC(=C(C=C2)N)N)=O)C=C1 | C20H27N3O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 2-(1H-benzoimidazol-5-yl)-N-(4-tert.-butyl-benzyl)-propionamide | N1C=NC2=C1C=CC(=C2)C(C(=O)NCC2=CC=C(C=C2)C(C)(C)C)C | C21H25N3O
